US07402672B2
3-m-Tolylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-22
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(m-tolyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-22 as an ivory colored solid. 1H NMR (DMSO-d6) δ 10.2 (bs, 1H), 8.62 (dd, 1H, J=1.0, 4.4 Hz), 8.19 (bs, 1H), 7.85 (dd, 1H, J=1.3, 8.4 Hz), 7.28 (overlapping dd, 1H, J=4.5, 8.3 Hz and 7.24 (s, 1H), 7.1-6.9 (m, 4H), 2.22 (s, 3H). MS Obs 284 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(m-tolyl)disulfide | 1.1 equiv | C1(=CC(=CC=C1)SSC=1C=C(C=CC1)C)C | C14H14S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-m-Tolylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | C1(=CC(=CC=C1)SC1=C(NC=2C1=NC=CC2)C(=O)N)C | C15H13N3OS
